US06608048B2
7-Amino-4-(2,4-dichloro-5-methoxyanilino)-6-methoxy-3-quinolinecarbonitrile
An amount of 5 g (0.012 mol) of N-[3-cyano-4-(2,4-dichloro-5-methoxyanilino)-6-methoxy-7-quinolinyl]acetamide was stirred in 37% hydrochloric acid (500 mL), and heated at 65° C. for 1 hour. The mixture was evaporated to a slurry, stirred in saturated sodium bicarbonate solution, and extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered through a pad of silica gel, and evaporated to dryness to give a tan solid (1.9 g, 42% yield), mp 265° C. decomp.; 1H NMR (DMSO-d6) δ 9.29 (s, 1H), 8.27 (s, 1H), 7.70 (s, 1H), 7.66 (s, 1H), 7.23 (s, 1H), 6.98 (s, 1H), 5.93 (s, 2H), 3.96 (s, 3H), 3.84 (s, 3H); MS (ES) m/z 389.2 (M+1). Analysis for C18H14Cl2N4O2: Found: C, 55.80; H, 3.78; N, 14.67. Calcd: C, 55.54; H, 3.63; N, 14.39.

reactant | N-[3-cyano-4-(2,4-dichloro-5-methoxyanilino)-6-methoxy-7-quinolinyl]acetamide | 0.012 mol, 5 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C(C=C(C(=C1)OC)Cl)Cl)OC)NC(C)=O | C20H16Cl2N4O3
solvent | hydrochloric acid | 500 mL | Cl | ClH
product | 7-Amino-4-(2,4-dichloro-5-methoxyanilino)-6-methoxy-3-quinolinecarbonitrile | 1.9 g, 42% yield | NC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=C(C(=C1)OC)Cl)Cl)OC | C18H14Cl2N4O2
